US06770646B2
a) 7-Cyclopropylmethyl-3-hydroxy-5-methyl-2-[(3-trifluoromethylphenyl)methyl]thieno[2,3-d]pyridazin-4(5H)-one
7-Cyclopropylmethyl-3-methoxy-5-methyl-2-[(3-trifluoromethylphenyl)methyl]-thieno[2,3-d]pyridazin-4(5H)-one (8.8 g) was dissolved in dichloromethane (250 ml) and cooled to −15° C. Boron tribromide in dichloromethane (1M, 24 ml) was added. The reaction was allowed to warm to room temperature and left to stir for 72 hours. Water was added and the mixture was extracted with ethyl acetate. The ethyl acetate was dried, filtered and concentrated. The residue was purified by chromatography, eluting with 1:1 isohexane:ether, and then recrystallised from isohexane to give the sub-title compound (4.5 g).

reactant | 7-Cyclopropylmethyl-3-methoxy-5-methyl-2-[(3-trifluoromethylphenyl)methyl]-thieno[2,3-d]pyridazin-4(5H)-one | 8.8 g | C1(CC1)CC1=NN(C(C2=C1SC(=C2OC)CC2=CC(=CC=C2)C(F)(F)F)=O)C | C20H19F3N2O2S
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1M, 24 ml | ClCCl | CH2Cl2
product | 7-Cyclopropylmethyl-3-hydroxy-5-methyl-2-[(3-trifluoromethylphenyl)methyl]thieno[2,3-d]pyridazin-4(5H)-one | 4.5 g | C1(CC1)CC1=NN(C(C2=C1SC(=C2O)CC2=CC(=CC=C2)C(F)(F)F)=O)C | C19H17F3N2O2S
